// Generated for: spectre
// Generated on: Oct 21 23:13:35 2019
// Design library name: ELEC402
// Design cell name: BUFFER
// Design view name: schematic
simulator lang=spectre
global 0
parameters CL=1p vdd=1 vin=1
include "/ubc/ece/data/cmc2/kits/AMSKIT616_GPDK/tech/gpdk045_v_4_0/gpdk045/../models/spectre/gpdk045.scs" section=tt

// Library name: ELEC402
// Cell name: BUFFER
// View name: schematic
NM0 (VDD INPUT OUTPUT 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
PM0 (0 INPUT OUTPUT VDD) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
V2 (INPUT 0) vsource dc=vin type=dc
V0 (VDD 0) vsource dc=vdd type=dc
C0 (OUTPUT 0) capacitor c=CL
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc hysteresis=yes param=vin start=0 stop=vdd write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
